US07855297B2
By the reaction and treatment in the same manner as in Example 83 using 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride (0.72 g) and 3-chloromethyl-5,6-dihydroimidazo[2,1-b]thiazole hydrochloride (0.38 g) as starting materials, 5-benzyloxy-N-({1-[(5,6-dihydroimidazo[2,1-b]thiazol-3-yl)methyl]pyrazol-4-yl}methyl)-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.92 g) was obtained. By the reaction and treatment of this compound in the same manner as in Example 139, N-({1-[(5,6-dihydroimidazo[2,1-b]thiazol-3-yl)methyl]pyrazol-4-yl}methyl)-5-hydroxy-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide dihydrochloride (0.50 g) was obtained.

reactant | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride | 0.72 g | Cl.C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NNC1)C=1C=NC(=CC1)C(C)C
reactant | 3-chloromethyl-5,6-dihydroimidazo[2,1-b]thiazole hydrochloride | 0.38 g | Cl.ClCC=1N2C(SC1)=NCC2
product | 5-benzyloxy-N-({1-[(5,6-dihydroimidazo[2,1-b]thiazol-3-yl)methyl]pyrazol-4-yl}methyl)-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.92 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(C=1C=NC(=CC1)C(C)C)CC=1C=NN(C1)CC=1N2C(SC1)=NCC2 | C36H38N6O2S
